US04346087
Into an apparatus similar to that in Example 1, were charged 299.5 g (1 mole) of N-tetradecyldiethylenetriamine and 116.1 g (1 mole) of methyl 2-formylpropionate. At 130° to 135° C., 18 g of water and 32 g of methanol were distilled off to obtain 4-tetradecylaminoethyl-6-methyl-3,6-dihydro-2H-1,4-diazepin-5-one.

reactant | N-tetradecyldiethylenetriamine | 1 mole, 299.5 g | C(CCCCCCCCCCCCC)NCCNCCN | C18H41N3
reactant | methyl 2-formylpropionate | 1 mole, 116.1 g | C(=O)C(C(=O)OC)C | C5H8O3
product | 4-tetradecylaminoethyl-6-methyl-3,6-dihydro-2H-1,4-diazepin-5-one | C(CCCCCCCCCCCCC)NCCN1CCN=CC(C1=O)C | C22H43N3O
